US05599522
(Phenyl)-(pyrid-4-yl)-(thien-2-yl)methanol
Thiophene (1.150 g, 13.60 mmol) was dissolved in diethyl ether (50 mL, sodium benzophenone ketyl) under argon. n-Butyl lithium (5.10 mL, 13.60 mmol) was added quickly with a syringe under evolution of heat. The resulting mixture was stirred for 1 hour and 15 minutes at room temperature. After cooling to -75° C., benzoylpyridine (2.50 g, 13.6 mmol) dissolved in THF (10 mL) was added over a period of 10 minutes and the resulting mixture was stirred for 60 hours at room temperature. The resulting thick yellow suspension was diluted with THF (100 mL) and NaH2PO4 buffer (1.25M, 100 mL) was added. The organic layer was separated and washed with more NaH2PO4 buffer (2×30 mL, 1.25M), dried (Na2SO4) and evaporated yielding 3.24 g of crude material. Chromatography (flash, TLC gel 125 g, CH2Cl2 :diethyl ether 4:6) yielded 1.83 g (6.85 mmol, 50%) of the title compound.

reactant | Thiophene | 13.60 mmol, 1.150 g | S1C=CC=C1 | C4H4S
reactant | n-Butyl lithium | 13.60 mmol, 5.10 mL | C(CCC)[Li]
reactant | benzoylpyridine | 13.6 mmol, 2.50 g | C(C1=CC=CC=C1)(=O)C1=NC=CC=C1 | C12H9NO
reactant | CH2Cl2 diethyl ether | C(Cl)Cl.C(C)OCC
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (Phenyl)-(pyrid-4-yl)-(thien-2-yl)methanol | 6.85 mmol, 1.83 g, 50% | C1(=CC=CC=C1)C(O)(C=1SC=CC1)C1=CC=NC=C1 | C16H13NOS
